US07435828B2
To a suspension of the above 3-(4-hydroxymethyl-phenoxy)-propan-1-ol (1.50 g, 8.23 mmol) in acetonitrile (25 mL) is added N-methylmorpholine-N-oxide (1.50 g, 12.38 mmol) followed by tetrapropylammonium perruthenate (140 mg, 0.43 mmol). The dark solution is stirred at rt for 2 h before the solvent is removed in vacuo. The crude product is purified by column chromatography on silica gel (heptane/EA) to give 4-(3-hydroxy-propoxy)-benzaldehyde. 1H NMR (D6-DMSO): δ 9.83 (s, 1H), 7.85-7.81 (m, 2H), 7.12-7.07 (m, 2H9, 4.56 (t, J=5.3 Hz, 1H), 4.14 (t, J=6.4 Hz, 2H), 3.57-3.51 (m, 2H), 1.88 (p, J=6,4 Hz, 2H).

reactant | 3-(4-hydroxymethyl-phenoxy)-propan-1-ol | 8.23 mmol, 1.50 g | OCC1=CC=C(OCCCO)C=C1 | C10H14O3
reactant | N-methylmorpholine-N-oxide | 12.38 mmol, 1.50 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.43 mmol, 140 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-(3-hydroxy-propoxy)-benzaldehyde | OCCCOC1=CC=C(C=O)C=C1 | C10H12O3
